US04958019
(4) Synthesis of 5-acetoxymethyl-7-chloro-2-methyl-s-triazolo[1,5-a]pyrimidine
In 300 ml of phosphorus oxychloride was added dropwise 40 ml of N,N-dimethylaniline, and 35 g of 5-acetoxymethyl-7-hydroxy-2-methyl-s-triazolo[1,5-a]pyrimidine was added to the mixture and the mixture was stirred at 50° C. for one hour. An oily residue obtained by removing phosphorus oxychloride was dissolved in 500 ml of chloroform and ice-cooled. After addition of crushed ice and water to the mixture and stirring thereof, a chloroform layer was separated, washed with water and dried over anhydrous magnesium sulfate. Then, removing a solvent, an oily product was obtained. This was applied to a silica gel column chromatography (eluent: chloroform) and fractions containing the title compound were condensed to obtain an oily product. This was allowed to stand to cool and crystallized to obtain 31 g of the title compound.

reactant | N,N-dimethylaniline | 40 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 5-acetoxymethyl-7-hydroxy-2-methyl-s-triazolo[1,5-a]pyrimidine | 35 g | C(C)(=O)OCC1=NC=2N(C(=C1)O)N=C(N2)C | C9H10N4O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | phosphorus oxychloride | 300 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-acetoxymethyl-7-chloro-2-methyl-s-triazolo[1,5-a]pyrimidine | C(C)(=O)OCC1=NC=2N(C(=C1)Cl)N=C(N2)C | C9H9ClN4O2
